* C:\daniel\tampere_summer\ltspice_design\differential_stage\differential_stage.asc
V1 Vin+ 0 SINE(0.5 40u 1meg) AC 40u 0
V2 Vin- 0 SINE(0.5 40u 1meg 0 0 180) AC 40u 180
V3 Vdd 0 1
M1 Vout Vin+ N002 Vdd pmos45bulk l=45n w=1000.0n as=280.00f ad=280.00f ps=2.56u pd=2.56u
M2 N003 Vin- N002 Vdd pmos45bulk l=45n w=1000.0n as=280.00f ad=280.00f ps=2.56u pd=2.56u
M3 Vout N003 0 0 nmos45bulk l=45n w=500.0n as=140.00f ad=140.00f ps=1.56u pd=1.56u
M4 N003 N003 0 0 nmos45bulk l=45n w=500.0n as=140.00f ad=140.00f ps=1.56u pd=1.56u
M5 N001 N001 Vdd Vdd pmos45bulk l=45n w=500.0n as=140.00f ad=140.00f ps=1.56u pd=1.56u
I1 N001 0 50µ
M6 N002 N001 Vdd Vdd pmos45bulk l=45n w=500.0n as=140.00f ad=140.00f ps=1.56u pd=1.56u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Asus\OneDrive - TUNI.fi\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib ../libs/45nm_bulk.pm
.ac oct 100 10 100G
;tran 5u
.backanno
.end
